US05457201
4-Chloro-2-cyanoaniline
A 2 L round bottom flask was charged with 138 g (1.168 mol) of anthranilonitrile (Aldrich) and 1.05 L of acetonitrile. The flask was heated to 50° C. and 172.5 g (1.29 mol) of N-chlorosuccinimide (Aldrich) was added in one portion. The reaction was heated at reflux for 2.0 h (HPLC monitoring), cooled to approx. 35° C., and the solvent is removed by rotovap at reduced pressure. The residue was partitioned between 1.5 L ethyl acetate and 1 L cold water. The aqueous layer was extracted with ethyl acetate and the combined organic layers washed with 3 portions of cold water, brine, dried over MgSO4 and treated with activated carbon. The solvent was removed by rotovap at reduced pressure to give a pale orange solid which was crystallized from 430 mL of hot 1-chlorobutane and allowed to cool to room temp. overnight. After filtration, the resulting crystals were washed with cold butylchloride and air dried to give 82.5 g of off-white crystals (94% pure by HPLC). This material was recrystallized from 140 mL of s chlorobutane and 125 mL hexane to give 73 g (41%) of the title compound as a colorless solid. An additional 18.8 g (10.5%) was obtained from two recrystallizations of material from the mother liquors.

reactant | anthranilonitrile | 1.168 mol, 138 g | C(C=1C(N)=CC=CC1)#N | C7H6N2
reactant | N-chlorosuccinimide | 1.29 mol, 172.5 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 1.05 L | C(C)#N | C2H3N
product | 4-Chloro-2-cyanoaniline | 82.5 g, 94% | ClC1=CC(=C(N)C=C1)C#N | C7H5ClN2
